US08633173B2
N(2)-[3-(4-Methyl-piperazin-1-yl)-phenyl]-N(8)-pyridin-3-ylmethyl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-pyridin-3-ylmethyl-amine (75.0 mg, 0.289 mmol) and 3-(4-methylpiperazin-1-yl)aniline (61.0 mg, 0.319 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (33.0 mg, 0.0604 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a pale yellow foam (0.017 g, 14%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.66 (s, 1H), 8.56 (d, J=4.6 Hz, 1H), 7.85 (d, J=6.6 Hz, 1H), 7.72 (d, J=7.9 Hz, 1H), 7.31-7.25 (m, 1H), 7.24-7.18 (m, 2H), 7.06 (d, J=7.9 Hz, 1H), 6.75 (s, 1H), 6.68 (t, J=7.3 Hz, 1H), 6.57 (d, J=8.3 Hz, 1H), 6.32 (d, J=7.8 Hz, 1H), 5.18 (t, J=5.5 Hz, 1H), 4.51 (d, J=5.7, 2H), 3.28-3.23 (m, 4H), 2.61-2.56 (m, 4H), 2.36 (s, 3H). MS=415 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-pyridin-3-ylmethyl-amine | 0.289 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C=NC=CC2)=N1 | C12H10ClN5
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.319 mmol, 61.0 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0604 mmol, 33.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(2)-[3-(4-Methyl-piperazin-1-yl)-phenyl]-N(8)-pyridin-3-ylmethyl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)NCC=2C=NC=CC2)=N1 | C23H26N8
